US07189711B2
(±)-3-Acetyl-1-(4-amino-3-methylphenyl)-4,5-dihydro-7,8-dichloro-4-methyl-3H-2,3-benzodiazepine
4.06 g (10 mmoles) of (±)-3-acetyl-4,5-dihydro-7,8-dichloro-1-(3-methyl-4-nitrophenyl)-4-methyl-3H-2,3-benzodiazepine are dissolved in a mixture of 55 cm3 of methanol and 55 cm3 of dichloromethane, then 3.0 g of wet Raney nickel catalyst and, under vigorous stirring, 1.7 cm3 (35 mmoles) of 98% hydrazine hydrate are added. The reaction mixture is stirred for further 45 minutes, the catalyst is filtered, washed with dichloromethane, the filtrate is evaporated, and the residue is rubbed with 50 cm3 of water to obtain solid matter. The crude product is recrystallized from a mixture of ethyl acetate and hexane. Thus, 3.27 g (87%) of the title compound are obtained in the form of yellow ochre solids melting at 127–129° C.

reactant | (±)-3-acetyl-4,5-dihydro-7,8-dichloro-1-(3-methyl-4-nitrophenyl)-4-methyl-3H-2,3-benzodiazepine | 10 mmoles, 4.06 g | C(C)(=O)N1N=C(C2=C(CC1C)C=C(C(=C2)Cl)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C19H17Cl2N3O3
reactant | hydrazine hydrate | 35 mmoles, 1.7 cm3 | O.NN
solvent | methanol | 55 cm3 | CO | CH4O
solvent | dichloromethane | 55 cm3 | ClCCl | CH2Cl2
catalyst | Raney nickel | 3.0 g | [Ni] | Ni
product | (±)-3-Acetyl-1-(4-amino-3-methylphenyl)-4,5-dihydro-7,8-dichloro-4-methyl-3H-2,3-benzodiazepine | 3.27 g, 87% | C(C)(=O)N1N=C(C2=C(CC1C)C=C(C(=C2)Cl)Cl)C2=CC(=C(C=C2)N)C | C19H19Cl2N3O
